US04486438
A mixture of 7.1 g of 2-amino-3-trifluoromethylbenzoic acid (prepared by the process of J. Med. Chem., Vol. 16(2) (1973), p. 101-106) and 10 g of methoxy acetic acid chloride was progressively heated and at 35° to 40° C., a very important disengagement of gas occurred for 15 to 20 minutes and at 120° C. a brown solution was formed and gas disengagement slackened but continued. The temperature was maintained at 140° C. for one hour during which gas formation practically ceased. The mixture was cooled to room temperature and excess acid chloride was distilled under reduced pressure. The residue was taken up in 70 ml of water and the mixture was vacuum filtered. The product was washed with water and was dissolved in methylene chloride. The organic phase was dried and filtered and the filtrate was evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and eluted with methylene chloride to obtain 5.4 g of 2-methoxymethyl-8-trifluoromethyl-4-H-3,1-benzoxazine-4-one melting at 104° to 106° C.

reactant | 2-amino-3-trifluoromethylbenzoic acid | 7.1 g | NC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H6F3NO2
reactant | methoxy acetic acid chloride | 10 g | COCC(=O)Cl | C3H5ClO2
product | 2-methoxymethyl-8-trifluoromethyl-4-H-3,1-benzoxazine-4-one | 5.4 g | COCC1=NC2=C(C(O1)=O)C=CC=C2C(F)(F)F | C11H8F3NO3
